US03984459
The 3-chloropropanol was added to the crotonic acid ethyl ester in the presence of sodium hydride to obtain the 7-chloro-3-methyl-4-oxaheptanoic acid ethyl ester (boiling point1 : 74° - 82°C.). Then the 7-iodo-3-methyl-4-oxaheptanoic acid ethyl ester (boiling point0.05 : 62° - 65°C) was obtained in acetone with sodium iodide according to Finkelstein.

reactant | 3-chloropropanol | ClCCCO | C3H7ClO
reactant | crotonic acid ethyl ester | C(C)OC(\C=C\C)=O | C6H10O2
reactant | sodium hydride | [H-].[Na+]
product | 7-chloro-3-methyl-4-oxaheptanoic acid ethyl ester | C(C)OC(CC(OCCCCl)C)=O | C9H17ClO3
